US07241791B2
(2,4-dimethoxyphenyl)(2-fluoro-3-methylphenyl)methanone
Prepared according to Method A step B from 2-fluoro-3-methyl-N-methoxy-N-methyl-benzamide (2.84 g, 14.4 mmol) and 2,4-dimethoxyphenylmagnesium bromide (26 mL, 0.5 M in THF) to give 1.13 g of the title compound as a white solid.

reactant | 2-fluoro-3-methyl-N-methoxy-N-methyl-benzamide | 14.4 mmol, 2.84 g | FC1=C(C(=O)N(C)OC)C=CC=C1C | C10H12FNO2
reactant | 2,4-dimethoxyphenylmagnesium bromide | 0.5 M, 26 mL | COC1=C(C=CC(=C1)OC)[Mg]Br
product | (2,4-dimethoxyphenyl)(2-fluoro-3-methylphenyl)methanone | 1.13 g | COC1=C(C=CC(=C1)OC)C(=O)C1=C(C(=CC=C1)C)F | C16H15FO3
